US05079260
A solution of N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine, acid chloride (3.5 g, 10 mmol) in 10 mL of THF was charged with NH3 (29.6% water solution, 1.26 mL, 20 mmol) at room temperature. The reaction mixture was stirred for 30 min., then diluted with 100 mL of water and extracted with ethyl acetate (5×20 mL). The organic layers were combined, extracted with 10% potassium carbonate solution, washed with water, brine, dried and evaporated. Recrystallization of the product from ethanol afforded 1.26 g (36%) of N-(9-fluorenylmethoxycarbonyl)-L-leucine, amide as colorless solid, mp 79°-80° C.

reactant | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | NH3 | 20 mmol, 1.26 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | N-(9-fluorenylmethoxycarbonyl)-L-leucine, amide | 1.26 g, 36% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC([C@@H](N)CC(C)C)=O | C21H24N2O3
